US07915443B2
3-Ethynylbenzoic acid (0.1 g, 0.685 mmol) was added to a dry 50 mL round bottom flask and dissolved in DMF (6.85 mL). To the resulting solution was added 1,3-dimethyl-1H-pyrazol-5-amine (0.076 g, 0.685 mmol), followed by BOP (0.393 g, 0.890 mmol), and 0.238 mL of DIPEA (1.37 mmol). This reaction mixture was heated to 50° C. for 3 h. After allowing the reaction to cool to room temperature it was taken up in EtOAc (15 mL) and extracted with brine (3×15 mL). The EtOAc layer was then washed with saturated aqueous NaHCO3 (2×15 mL). The organics were dried over anhydrous Na2SO4(s), filtered and concentrated in vacuo. The crude residue was purified via column chromatography (silica gel, gradient eluant mixture of EtOAc in Hexanes: 0% to 100% EtOAc) affording N-(1,3-dimethyl-1H-pyrazol-5-yl)-3-ethynylbenzamide (0.128 g, 78%).

reactant | 3-Ethynylbenzoic acid | 0.685 mmol, 0.1 g | C(#C)C=1C=C(C(=O)O)C=CC1 | C9H6O2
reactant | 1,3-dimethyl-1H-pyrazol-5-amine | 0.685 mmol, 0.076 g | CN1N=C(C=C1N)C | C5H9N3
reactant | BOP | 0.890 mmol, 0.393 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 1.37 mmol, 0.238 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6.85 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-(1,3-dimethyl-1H-pyrazol-5-yl)-3-ethynylbenzamide | 0.128 g, 78% | CN1N=C(C=C1NC(C1=CC(=CC=C1)C#C)=O)C | C14H13N3O
